US05780483
Preparation of 2{[(phenylamino)carbonyl]amino}thiophenol
2- {[(Phenylamino)carbonyl]amino }thiophenol was prepared from 2-aminothiophenol (200 mg, 1.6 mmol) and phenyl isocyanate according to the procedure in General Method A. The product was purified by precipitation from toluene and filtering to afford the titled compound (330 mg, 85%). mp: 194.5° C.; 1H NMR (CD3 OD/CDCl3): d 7.48-7.26 (m, 4H), 7.25-7.10 (m, 3H), 7.04-6.79 (m, 2H); El-MS m/z 244 (M+H)+ ; Anal. (C13H12N2OS) C, H, N.

reactant | 2-aminothiophenol | 1.6 mmol, 200 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 2{[(phenylamino)carbonyl]amino}thiophenol | 330 mg, 85% | C1(=CC=CC=C1)NC(=O)NC1=C(C=CC=C1)S | C13H12N2OS
